US06600037B1
Sodium hydride (330 mg, 8.25 mmol) was added to a solution of 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine (1.0 g, 2.62 mmol) and 1-(4-aminophenyl)-1H-imidazole (438 mg, 2.75 mmol) in dry THF (40 ml) under N2 and the mixture heated to reflux for 3 h. The reaction was quenched with H2O (5 ml), diluted with brine (50 ml) and extracted with ethyl acetate (2×150 ml). The ethyl acetate extracts were dried (MgSO4), concentrated in vacuo and the residue purified by column chromatography (silica; 2% ethyl acetate in CH2Cl2) to give 4-[4-(1-tert-butoxy carbonylamino-1-methylethyl)phenyl]-5-chloro-N-[4-(1-imidazolyl)-phenyl]pyrimidine-2-amine as a yellow solid (310 mg) m.p. 218-220°. This intermediate was stirrd at room temperature in trifluoroacetic acid (4 ml) for 3 h before concentrating the reaction in vacuo. The residue was diluted with 2M NaOH (aq) (50 ml) and extracted with CH2Cl2-ethanol (20:1) (3×50 ml), the extracts dried (MgSO4) and concentrated in vacuo. Trituration of the resultant solid with diethylether-ethyl acetate (4:1) gave the title compound as a pale yellow solid (175 mg) m.p. 199-201°. δH (d6DMSO) 10.05 (1H, bs), 8.62 (1H, s),8.15 (1H, s), 7.88 (2H, d, J 7.9 Hz), 7.78 (2H, d, J 8.5 Hz), 7.69 (2H, d, J 8.5 Hz), 7.65 (1H, s), 7.55 (2H, d, J 8.8 Hz), 1.42 (6H, s). MS (ESI) 405 (MH+, 100%).

reactant | Sodium hydride | 8.25 mmol, 330 mg | [H-].[Na+]
reactant | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine | 2.62 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)Cl | C18H21Cl2N3O2
reactant | 1-(4-aminophenyl)-1H-imidazole | 2.75 mmol, 438 mg | NC1=CC=C(C=C1)N1C=NC=C1 | C9H9N3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-[4-(1-tert-butoxy carbonylamino-1-methylethyl)phenyl]-5-chloro-N-[4-(1-imidazolyl)-phenyl]pyrimidine-2-amine | 310 mg | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)N1C=NC=C1 | C27H29ClN6O2
